US07452893B2
To a N,N-dimethylformamide (30 mL), tetrahydrofuran (30 mL) solution of 4-(Benzyloxy)-2-fluorocyclohexanol (4.28 g, 19.1 mmol) under nitrogen was added 60% sodium hydride (1.5 g, 37.5 mmol). The resulting mixture was heated at 60° C. for 0.5 h then [1-bromoethyl)vinyl]benzene [J. Am. Chem. Soc. 1954, 76, 2705.] (4.88 g, 24.8 mmol) was added. After 0.5 h the contents of the reaction flask were poured into 5% sodium bicarbonate. The resulting mixture was extracted with ethyl acetate (3×) and the combined organic extracts were washed with brine, dried with anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. Flash column chromatography (hexane:ethyl acetate, 95:5) gave [1-({[4-(Benzyloxy)-2-fluorocyclohexyl]oxy}methyl)vinyl]benzene as a pale oil (1.65 g, 25% yield): 1H NMR (CDCl3) δ 7.50-7.44 (m, 2H), 7.36-7.24 (m, 8H), 5.52 (s, 1H), 5.38 (s, 1H), 4.87-4.72 (m, 1H), 4.55-4.45 (m, 4H), 3.75-3.73 (m, 1H), 3.56-3.52 (m, 1H), 2.30-2.15 (m, 1H), 1.90-1.75 (m, 4H), 1.58-1.49 (m, 1H).

reactant | 4-(Benzyloxy)-2-fluorocyclohexanol | 19.1 mmol, 4.28 g | C(C1=CC=CC=C1)OC1CC(C(CC1)O)F | C13H17FO2
reactant | sodium hydride | 37.5 mmol, 1.5 g | [H-].[Na+]
reactant | benzene | 24.8 mmol, 4.88 g | C1=CC=CC=C1 | C6H6
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | [1-({[4-(Benzyloxy)-2-fluorocyclohexyl]oxy}methyl)vinyl]benzene | 1.65 g, 25% yield | C(C1=CC=CC=C1)OC1CC(C(CC1)OCC(=C)C1=CC=CC=C1)F | C22H25FO2
